US06001331
A solution of 2-methylbenzothiazole (10.0 g, 0.067 mol) and 1-iodoheptane (110 mL, 0.67 mol) in 100 mL of acetronitrile was refluxed under nitrogen for 48 hours. The mixture was cooled, filtered, and the solid formed was washed with diethyl ether and recrystallized from ethanol-ethyl acetate to give 3-heptyl-2-methylbenzothiazolium iodide as a light purple solid, mp 110-113° C.

reactant | 2-methylbenzothiazole | 0.067 mol, 10.0 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 1-iodoheptane | 0.67 mol, 110 mL | ICCCCCCC | C7H15I
product | 3-heptyl-2-methylbenzothiazolium iodide | [I-].C(CCCCCC)[N+]1=C(SC2=C1C=CC=C2)C | InChI=1S/C15H22NS.HI/c1-3-4-5-6-9-12-16-13(2)17-15-11-8-7-10-14(15)16;/h7-8,10-11H,3-6,9,12H2,1-2H3;1H/q+1;/p-1
